US03988156
4-(2,6-dinitrobenzylidene)-1-ethyl-1,4-dihydroquinoline ##SPC6##
1-Ethyllepidinium iodide (3.0 g., 10 mmole) and 1-chloro-2,6-dinitrobenzene (2.5 g., 12 mmole) are warmed in acetonitrile (50 ml.) and diisopropylethylamine (2.6 g., 20 mmole) is added. The resulting dark mixture is aligned to cool and stand overnight. The precipitate of dye is filtered off and washed with acetonitrile and ether. On recrystallization from acetonitrile, 25% yield (0.85 g.) of purified dye is obtained with a m.p. of 45°-155° C. dec.

reactant | 1-Ethyllepidinium iodide | 10 mmole, 3.0 g | [I-].C(C)[N+]1=CC=C(C)C2=CC=CC=C12
reactant | 1-chloro-2,6-dinitrobenzene | 12 mmole, 2.5 g | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | diisopropylethylamine | 20 mmole, 2.6 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(2,6-dinitrobenzylidene)-1-ethyl-1,4-dihydroquinoline | 25% yield | [N+](=O)([O-])C1=C(C=C2C=CN(C3=CC=CC=C23)CC)C(=CC=C1)[N+](=O)[O-] | C18H15N3O4
